US06649600B1
8-(1-Hydroxymethyl-cuban-4-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione.
To a stirred suspension of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-cubane-1-carboxylic acid (100 mg, 0.261 mmol) and HATU (1.1 eq, 0.288 mmol, 110 mg) in 6 ml of MeCN was added Hunig's base (1.1 eq, 0.288 mmol, 37 mg), neat via syringe. The resulting heterogeneous mixture was stirred for 3 h and NaBH4 (2.0 eq, 0.522 mmol, 20 mg) was added in one portion. The mixture was stirred for an additional 2 h, cooled with the aid of an ice bath and acidified by the dropwise addition of concentrated HCl. The resulting pale yellow precipitate was collected, dried, and resuspended in MeCN. After stirring overnight the material was collected and dried to afford an off-white powder (50 mg, 52%). MS: 369 (MH+).

reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-cubane-1-carboxylic acid | 0.261 mmol, 100 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12C3C4C5(C(C14)C2C53)C(=O)O)=O)CCC | C20H22N4O4
reactant | HATU | 0.288 mmol, 110 mg, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 0.288 mmol, 37 mg, 1.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH4 | 0.522 mmol, 20 mg, 2.0 eq | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeCN | 6 ml | CC#N | C2H3N
product | 8-(1-Hydroxymethyl-cuban-4-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 50 mg, 52% | OCC12C3C4C5(C3C1C5C24)C2=NC=4N(C(N(C(C4N2)=O)CCC)=O)CCC | C20H24N4O3
